Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None 

attach
 
Pertinent Results:
ADMISSION LABS:
===============
___ 04:10PM BLOOD cTropnT-<0.01
___ 04:10PM BLOOD WBC-10.1* RBC-5.26 Hgb-15.9 Hct-49.8 
MCV-95 MCH-30.2 MCHC-31.9* RDW-13.2 RDWSD-46.0 Plt ___
___ 04:10PM BLOOD Glucose-96 UreaN-15 Creat-1.1 Na-141 
K-5.2 Cl-104 HCO3-22 AnGap-15
___ 05:30AM BLOOD Calcium-8.6 Phos-3.5 Mg-2.4 Cholest-179
___ 05:30AM BLOOD %HbA1c-5.8 eAG-120
___ 05:30AM BLOOD Triglyc-104 HDL-47 CHOL/HD-3.8 
LDLcalc-111

DISCHARGE LABS: 
===============
___ 08:13AM BLOOD WBC-8.7 RBC-5.26 Hgb-15.8 Hct-49.5 MCV-94 
MCH-30.0 MCHC-31.9* RDW-13.3 RDWSD-45.6 Plt ___
___ 08:13AM BLOOD Glucose-105* UreaN-16 Creat-1.1 Na-143 
K-5.0 Cl-106 HCO3-23 AnGap-14
___ 08:13AM BLOOD Calcium-9.2 Phos-3.4 Mg-2.3

IMAGING: 
========
STRESS PERFUSION IMAGES - ___ 
1. Reversible, medium sized, moderate severity perfusion defect 
involving the RCA territory. 
2. Normal left ventricular cavity size.  Normal systolic 
function at rest with mild global hypokinesis after stress. 
Compared with report of the study of ___, these findings 
are new. 
  
EKG STRESS - ___ 
INTERPRETATION: This ___ year old man with h/o HTN was referred 
to 
the lab for evaluation of chest discomfort. He exercised for 12 
minutes 
on modified ___ protocol and stopped for fatigue. The peak 
estimated 
MET capacity is 10.1, which represents an excellent exercise 
tolerance 
for his age. No chest, arm, neck or back discomfort reported. In 
the 
setting of baseline ST-T wave abnormality, the EKG is 
uninterpretable 
for ischemia. Rhythm was sinus with frequent isolated APBs, rare 
atrial 
couplets, rare isolated VPBs, rare ventricular couplets and 
multiple 
runs of narrow complex tachycardia most likely atrial 
tachycarida with 
highest HR of ~ 150 bpm. Appropriate BP response to exercise and 

recovery with blunted HR response in the setting of beta 
blockade. 
IMPRESSION : No anginal symptoms with uninterpretable EKG for 
ischemia. 
Nuclear report sent separately. 

 
Brief Hospital Course:
Mr. ___ is a pleasant ___ year-old gentleman with history of 
hypertension, hyperlipidemia, arthritis, presenting as a 
transfer from ___ with chest discomfort, found to have TWI 
in I, II, III, aVF, V3-V6, with negative troponin concerning for 
unstable angina. Nuclear stress test showed perfusion defect 
involving the RCA territory. 

CORONARIES: Moderate severity perfusion defect involving the RCA 
territory on perfusion imaging. 
RHYTHM: NSR, 1st degree AV delay 

DISCHARGE WEIGHT: 95.3 Kg (210.1 lbs) 
DISCHARGE Cr: 1.1 
DISCHARGE H/H: 15.8/49.5 

TRANSITIONAL ISSUES: 
=====================
[] Follow-up HbA1c in one year as it was 5.8% during this 
admission. 
[] Consider increasing atorvastatin to 80mg if tolerating lower 
dose. 
[] Continue to monitor chest pain, if symptomatic, would 
consider coronary angiography. 

=============== 
ACTIVE ISSUES: 
=============== 
# Chest discomfort
Patient with atypical chest pain that is brought by exertion but 
also at rest. EKG without new changes. Troponins were negative 
x3. EKG stress test: patient exercised on modified ___ 
protocol for 12 minutes, MET capacity of 10.1, aymptomatic with 
baseline ST-T wave changes. Patient achieved 78% of maximal HR. 
Nuclear stress test with Reversible, medium sized, moderate 
severity perfusion defect involving the RCA territory. During 
his hospital stay, metoprolol was started but patient had 
bradycardia. His ___ ASCVD is 24.5%, which is substantially 
high and driven by age. We will start him on atorvastatin 40mg. 
Patient was continued on ASA and lisinopril. 

================ 
CHRONIC ISSUES: 
================ 
# HTN
- Continue lisinopril 20mg daily. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Chest pain

SECONDARY DIAGNOSIS:
====================
Hypertension  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were having chest pain, shortness of breath and there was 
concern for blockages in the blood vessels that supply your 
heart.

WHAT WAS DONE IN THE HOSPITAL?
- You underwent cardiac stress test with imaging, which showed 
narrowing of your right coronary artery. 

WHAT SHOULD I DO WHEN I GET HOME FROM THE HOSPITAL?
- Please follow-up with your doctors as ___. 
- Please take all your medications as prescribed. 

Sincerely,
Your ___ Treatment Team
 
Followup Instructions:
___